US04496735
A mixture of 7 g of 4-(3-pyridyloxy)benzaldehyde, 4 g of sodium propionate and 8 ml of propionic anhydride was heated at a temperature of 135° to 140° C. for 2 hours. After allowing the mixture to cool, the mixture was rendered alkaline with an aqueous solution of sodium hydroxide, washed with dichloromethane and rendered acidic with acetic acid. The precipitated crystals were separated by filtration, washed with water and recrystallized from methanol to obtain 5 g (56% yield) of 2-methyl-3-[4-(3-pyridyloxy)phenyl]propenoic acid as colorless prisms having a melting point of 191°-194° C.

reactant | 4-(3-pyridyloxy)benzaldehyde | 7 g | N1=CC(=CC=C1)OC1=CC=C(C=O)C=C1 | C12H9NO2
reactant | sodium propionate | 4 g | C(CC)(=O)[O-].[Na+]
reactant | propionic anhydride | 8 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-methyl-3-[4-(3-pyridyloxy)phenyl]propenoic acid | 5 g, 56% yield | CC(C(=O)O)=CC1=CC=C(C=C1)OC=1C=NC=CC1 | C15H13NO3
